US06939885B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(pyrimidine-4-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-Amino-5-chloro-phenyl)-pyrimidin-4-yl-methanone and 116 mg of 4-tert-butyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.23 (s, 9H), 7.40 (d, 2H, J=8.4 Hz), 7.51 (dd, 1H, J=8.8 Hz, 2 Hz), 7.71-7.80 (m, 6H), 9.03 (d, 1H, J=4.8 Hz), 9.33 (d, 1.2 Hz), 10.91 (b, 1H). MS:m/z 434.0 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-pyrimidin-4-yl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=NC=NC=C1 | C11H8ClN3O
reactant | 4-tert-butyl-benzenesulfonyl chloride | 116 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-[4-chloro-2-(pyrimidine-4-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=NC=NC=C1 | C21H20ClN3O3S
